2145-01-15 06:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 NASAL SWAB - At [**2145-1-14**] 09:17 PM
   Patient was chest pain free overnight since arriving at CCU
   got 2u pRBC overnight, pt felt
100% better
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Vasotec (Oral) (Enalapril Maleate)
   cough;
   Pletal (Oral) (Cilostazol)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-15**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**46**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.5
C (97.7
   HR: 73 (64 - 79) bpm
   BP: 153/64(88) {111/44(61) - 153/95(108)} mmHg
   RR: 16 (11 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
           Total In:
                                                                    301 mL
                                                                    769 mL
   PO:
                                                                    120 mL
                                                                    120 mL
   TF:
   IVF:
                                                                     93 mL
                                                                    171 mL
   Blood products:
                                                                     87 mL
                                                                    479 mL
   Total out:
                                                                      0 mL
                                                                    600 mL
   Urine:
   600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    301 mL
                                                                    169 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///32/
   Physical Examination
   Gen: NAD. Oriented x3. Mood, affect appropriate. Speaking comfortably
   in full sentences. Pt feeling much better after getting blood
   transfusion.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink.
   Neck: Supple with JVP of 8 cm.
   CV: Nondisplaced PMI.  RR, normal S1, S2. 3/6 SEM radiating to
   carotids.
   Chest: bibasilar crackles, improved after cough
   Abd: Soft, NTND. No HSM or tenderness.
   Ext: No LE edema. R femoral bruits. Warm and well perfused. 2+ DP/ 1+PT
   pulses bilaterally.
   Labs / Radiology
   174 K/uL
   9.4 g/dL
   104 mg/dL
   1.6 mg/dL
   32 mEq/L
   4.1 mEq/L
   34 mg/dL
   100 mEq/L
   140 mEq/L
   27.1 %
   7.3 K/uL
        [image002.jpg]
                             [**2145-1-14**]  09:54 PM
                             [**2145-1-15**]  05:16 AM
   WBC
   6.9
   7.3
   Hct
   22.7
   27.1
   Plt
   218
   174
   Cr
   1.5
   1.6
   Glucose
   237
   104
   Other labs:
   Ca++:9.1 mg/dL, Mg++:2.8 mg/dL, PO4:2.8 mg/dL
   CT abd/pelvis:
   1. No evidence of retroperitoneal hemorrhage.
   2. Multiple well-circumscribed bilateral renal lesions, some of which
   may
   represent simple cysts, though with some of slightly higher attenuation
   and
   correlation with prior imaging is recommended, and if no prior imaging
   is
   available, a renal ultrasound can be performed on a non-emergent basis
   for
   further evaluation.
   3. Extensive atherosclerotic calcification and disease with associated
   luminal narrowing that is incompletely assessed on this non-contrast
   imaging
   study.
   Assessment and Plan
   Patient is a 83 yo fm with hx of AS, CAD s/p 1V [**Hospital 8408**] transfered from
   OSH with 98% left main disease.
   .
   #. CAD: Stable on medical managment.  OSH Cath shows showed 98%
   discrete distal left main disease, 90% proximal/mid/distal RCA, patent
   RIMA-distal RCA, 85% mid right external iliac stenosis.  Patient is at
   very high risk for PCI with 98% distal left main disease. The patient
   is a poor substrate for IABP given her peripheral vascular disease.
   Has patent RIMA-RCA that is likely providing collateral flow to her
   LAD.  Patient's unstable angina has been medically managed on Nitro
   gtt, Heparin, Clopidogrel, ASA.  Given patient
s active GIB, heparin
   was discontinued last night.  Patient received 2u pRBC overnight with
   hct improvement from 22.7 to 27.1
   - continue nitro gtt
   - continue ASA 325mg daily, atorvastatin 80mg daily, plavix 75mg daily
   - increase Metoprolol Tartrate from 37.5 mg Q6H to 50mg Q6h
   - start hydralazine 25-50mg TID
   - f/u TTE today
   - f/u Dr. [**Last Name (STitle) **] recs on high risk PCI to distal LMCA with TandemHeart
   assistance, either today or on Monday
   .
   #.  Possible Lower GI bleed:  HCT at OSH 34 on admission, dropped to 28
   on transfer and 22.7 last night at [**Hospital1 19**].  Patient with BRBPR on Rectal
   Examination, no bloody bowel movement.  Heparin was discontinued last
   night in the setting of GIB.  This is less likely UGIB given no bump in
   BUN.  Patient reported having colonoscopy 5 years ago with no
   significant abnormalities except for some polyps, was told that she did
   not have to come back for 10 years.  Patient received 2u pRBC
   overnight, with hct bump from 22.7 to 27.1.  CT abd/pelvis ruled out RP
   bleed.
   - transfusion goal hct 30, give another unit now
   - pm hct
   - started on PO famotidine
   .
   #. Pump: Patient appears euvolemic on exam.  Minimal basilar crackles,
   no evidence of R sided failure.  Patient was diursed at OSH.  Echo at
   OSH shows EF 60-65%, mod LVH, mod LAE, mild [**Last Name (un) **], nl functioning
   prosthetic aortic valve, mod/sev MR, mild/mod TR, mild PR.  Patient
   with III/VI SEM at RUSB, with Carotid upstroke delay.
   - f/u TTE today
   - no diuresis today, with goal I/O even
   .
   #. Rhythm: NSR
   - continue to monitor on telemetry
   .
   #. HTN:  Patient
s sBP has been in the 160s range in the AM on [**1-15**].
   - increase Metoprolol Tartrate from 37.5 mg Q6H to 50mg Q6h
   - start hydralazine 25-50mg TID
   .
   # CKD: stage III-IV.  Creatinine on [**2144-10-9**] was 1.82, prior to that,
   her Creatinine was 1.39 and 1.48 in [**2142**].  Creatinine 1.6 today.  CT
   abd/pelvis showed Multiple well-circumscribed bilateral renal lesions,
   correlation with prior imaging or a renal US is warranted.
   - continue to monitor
   - avoid renal toxins
   - renally dose meds
   - outpatient renal US
   .
   #. PVD:
   - hold Pentoxifylline 400mg TID for now
   .
   # GERD:
   - Tums prn
   - PO famotidine
   ICU Care
   Nutrition:
   cardiac/heart healthy; currently npo in case pt is going for cath today
   Glycemic Control:  not on insulin, f/u HgbA1c
   Lines:
   18 Gauge - [**2145-1-14**] 09:24 PM
   20 Gauge - [**2145-1-14**] 09:25 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  PO famotidine
   VAP:  not indicated
   Comments:
   Communication:  Comments: [**First Name8 (NamePattern2) **] [**Known lastname **], [**Telephone/Fax (1) 12922**]; [**Numeric Identifier 12923**]  [**Doctor First Name 948**]
   ([**2145**]
   Code status: Full code, confirmed
   Disposition: if patient continues to be asymptomatic, nitro gtt can be
   weaned down, and if patient is not going for high risk PCI today, can
   call out to floor today
   ------ Protected Section ------
   Attending
s Note: 09.00hrs
   Agree with Dr.[**First Name (STitle) 1050**]
s note.
   Reviewed data and examined Pt.
   Cardiac issues stable.Needs better BP control
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 6658**]
   Spent 45mins
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 6658**]
   on:[**2145-1-16**] 12:17 ------

2145-01-16 07:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Transfused 1u for goal 30, with lasix [**12-19**] way through to avoid
   overload, post-transfusion Hct 30.3
   - Started Hydral 25mg PO TID & increased Lopressor to 50 qid for
   improved bp control, increased Hydral to 50mg PO TID & sbp's in the
   140's
   - weaned off nitro gtt with sbp's in the 130's
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Vasotec (Oral) (Enalapril Maleate)
   cough;
   Pletal (Oral) (Cilostazol)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2145-1-15**] 08:00 AM
   Furosemide (Lasix) - [**2145-1-15**] 10:59 AM
   Heparin Sodium (Prophylaxis) - [**2145-1-15**] 11:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-16**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**46**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98
   HR: 59 (59 - 81) bpm
   BP: 140/43(67) {108/43(60) - 170/77(99)} mmHg
   RR: 17 (10 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 70.2 kg
   Height: 67 Inch
                  Total In:
                                                                  2,448 mL
                                                                    240 mL
   PO:
                                                                    620 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    975 mL
   Blood products:
                                                                    854 mL
   Total out:
                                                                  3,150 mL
                                                                    430 mL
   Urine:
                                                                  3,150 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -702 mL
                                                                   -190 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///29/
   Physical Examination
   Gen: NAD. Oriented x3. Loquacious, speaking comfortably in full
   sentences.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink.
   Neck: Supple with JVP of [**5-24**] cm.
   CV: Nondisplaced PMI.  RR, normal S1, S2. 3/6 SEM radiating to
   carotids.
   Chest: Clear to auscultation throughout
   Abd: Soft, NTND. No HSM or tenderness.
   Ext: Trace L lower extremity edema, Warm and well perfused. 2+ DP/ 1+PT
   pulses bilaterally.
   Labs / Radiology
   216 K/uL
   11.3 g/dL
   96 mg/dL
   1.6 mg/dL
   29 mEq/L
   3.8 mEq/L
   33 mg/dL
   99 mEq/L
   138 mEq/L
   33.0 %
   7.0 K/uL
        [image002.jpg]
                             [**2145-1-14**]  09:54 PM
                             [**2145-1-15**]  05:16 AM
                             [**2145-1-15**]  05:00 PM
                             [**2145-1-16**]  05:03 AM
   WBC
   6.9
   7.3
   7.0
   Hct
   22.7
   27.1
   30.3
   33.0
   Plt
   [**Telephone/Fax (3) 12943**]
   Cr
   1.5
   1.6
   1.6
   TropT
   0.28
   Glucose
   237
   104
   96
   Other labs: PT / PTT / INR:12.0/25.7/1.0, CK / CKMB /
   Troponin-T:24//0.28, Alk Phos / T Bili:/1.1, LDH:178 IU/L, Ca++:8.7
   mg/dL, Mg++:2.7 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   Patient is a 83 yo fm with hx of AS, CAD s/p 1V [**Hospital 8408**] transfered from
   OSH with 98% left main disease.
   .
   #. CAD: Stable on medical managment.  OSH Cath shows showed 98%
   discrete distal left main disease, 90% proximal/mid/distal RCA, patent
   RIMA-distal RCA, 85% mid right external iliac stenosis.  Patient is at
   very high risk for PCI with 98% distal left main disease. The patient
   is a poor substrate for IABP given her peripheral vascular disease.
   Has patent RIMA-RCA that is likely providing collateral flow to her
   LAD.  Patient's unstable angina has been medically managed on Nitro
   gtt, Heparin, Clopidogrel, ASA.  Given patient
s active GIB, heparin
   was discontinued on [**1-14**]. Nitro gtt weaned on [**1-16**]. Patient received 2u
   pRBC on admission, with stable Hct. TTE showed EF>55% with LVH with
   normal global and regional systolic function. Aortic valve
   bioprosthesis with thickened leaflets and abnormally-elevated
   gradients. Mild calcific mitral stenosis. Moderate to severe mitral
   regurgitation. Moderate tricuspid regurgitation. Moderate pulmonary
   hypertension.
   - Continue ASA 325mg daily, Atorvastatin 80mg daily, Plavix 75mg daily
   - Continue Metoprolol Tartrate from 50mg mg Q6H
   - Increase Hydralazine 50mg frequency to QID
   - Procedure Monday, vascular surgery aware
   .
   #.  Possible Lower GI bleed:  HCT at OSH 34 on admission, dropped to 28
   on transfer and 22.7 last night at [**Hospital1 19**].  Patient with BRBPR on Rectal
   Examination, no bloody bowel movement.  Heparin was discontinued last
   night in the setting of GIB.  This is less likely UGIB given no bump in
   BUN.  Patient reported having colonoscopy 5 years ago with no
   significant abnormalities except for some polyps, was told that she did
   not have to come back for 10 years.  Patient received 2u pRBC
   overnight, with hct bump from 22.7 to 27.1.  CT abd/pelvis ruled out RP
   bleed. Hct stable at 33.0 this AM.
   - Daily CBC
   - PO Famotidine
   .
   #. Pump: Patient appears euvolemic on exam with no evidence of fluid
   overload or R sided failure.  Patient was diuresed at OSH.  Echo at OSH
   shows EF 60-65%, mod LVH, mod LAE, mild [**Last Name (un) **], nl functioning prosthetic
   aortic valve, mod/sev MR, mild/mod TR, mild PR.  Patient with III/VI
   SEM at RUSB, with Carotid upstroke delay.
   - no diuresis today, with goal I/O even
   .
   #. Rhythm: NSR
   - continue to monitor on telemetry
   .
   #. HTN:  Patient
s sBP has been in the 130s since increasing
   antihypertensive regimen & discontinuing Nitro gtt.
   - Metoprolol Tartrate from 50 mg Q6H
   - Increase Hydralazine 50mg frequency to QID
   .
   # CKD: stage III-IV.  Creatinine on [**2144-10-9**] was 1.82, prior to that,
   her Creatinine was 1.39 and 1.48 in [**2142**].  Creatinine 1.6 today.  CT
   abd/pelvis showed Multiple well-circumscribed bilateral renal lesions,
   correlation with prior imaging or a renal US is warranted.
   - Continue to monitor
   - Avoid renal toxins
   - Renally dose meds
   - Outpatient renal US
   .
   #. PVD:
   - hold Pentoxifylline 400mg TID for now
   .
   # GERD:
   - Tums prn
   - PO Famotidine
   ICU Care
   Nutrition: Cardiac diet
   Glycemic Control:  None
   Lines:
   18 Gauge - [**2145-1-14**] 09:24 PM
   20 Gauge - [**2145-1-14**] 09:25 PM
   Prophylaxis:
   DVT: SC Heparin
   Stress ulcer: Famotidine
   VAP:
   Comments:
   Communication:  Patient
   Code status: Full code
   Disposition: CCU for now, but ok for [**Hospital Ward Name 289**] 3
   ------ Protected Section ------
   Attending
s Note:
   Reviewed data and examined Pt.
   Much better.Awaiting extensive intervention
   Rx plan as outlined.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 6658**]
   Spent 40mins on case
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 6658**]
   on:[**2145-1-16**] 12:21 ------

2145-01-17 07:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   FOR ON CALL INTERN ON SUNDAY: PLEASE PAGE VASCULAR SURGERY INTERN WITH
   TIME FOR PROCEDURE AS VSURG WILL BE ASSISTING
   [**1-16**]
   - Hydral to QID from TID
   - written for tylenol and codeine for sciatica-
   - had feeling of food sticking in esophagus, wrote for maalox, pain
   disappeared
   - got anxious and responded to 0.5 mg ativan
   - had family meeting, explained procedure (as best I could) and went
   over risks/benefits
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Vasotec (Oral) (Enalapril Maleate)
   cough;
   Pletal (Oral) (Cilostazol)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-17**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**46**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 59 (59 - 75) bpm
   BP: 136/45(67) {121/44(63) - 185/79(118)} mmHg
   RR: 21 (13 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 70 kg (admission): 70.2 kg
   Height: 67 Inch
                  Total In:
                                                                    840 mL
                                                                    200 mL
   PO:
                                                                    840 mL
                                                                    200 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,780 mL
                                                                    300 mL
   Urine:
                                                                  1,780 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -940 mL
                                                                   -100 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (Murmur: Systolic), Quit S1, Loud S2, 3/6 SEM to
   carotids
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Absent), (Left DP pulse: Absent)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   242 K/uL
   12.5 g/dL
   86 mg/dL
   1.4 mg/dL
   26 mEq/L
   3.9 mEq/L
   31 mg/dL
   100 mEq/L
   138 mEq/L
   37.3 %
   7.9 K/uL
        [image002.jpg]
                             [**2145-1-14**]  09:54 PM
                             [**2145-1-15**]  05:16 AM
                             [**2145-1-15**]  05:00 PM
                             [**2145-1-16**]  05:03 AM
                             [**2145-1-16**]  09:10 PM
                             [**2145-1-17**]  04:44 AM
   WBC
   6.9
   7.3
   7.0
   7.9
   Hct
   22.7
   27.1
   30.3
   33.0
   34.6
   37.3
   Plt
   [**Telephone/Fax (3) 12958**]42
   Cr
   1.5
   1.6
   1.6
   1.4
   TropT
   0.28
   Glucose
   237
   104
   96
   86
   Other labs: PT / PTT / INR:12.0/25.7/1.0, CK / CKMB /
   Troponin-T:24//0.28, Alk Phos / T Bili:/1.1, LDH:178 IU/L, Ca++:8.7
   mg/dL, Mg++:2.7 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   Patient is a 83 yo fm with hx of AS, CAD s/p 1V [**Hospital 8408**] transfered from
   OSH with 98% left main disease.
   .
   #. CAD: Stable on medical managment.  OSH Cath shows showed 98%
   discrete distal left main disease, 90% proximal/mid/distal RCA, patent
   RIMA-distal RCA, 85% mid right external iliac stenosis.  Patient is at
   very high risk for PCI with 98% distal left main disease. The patient
   is a poor substrate for IABP given her peripheral vascular disease.
   Has patent RIMA-RCA that is likely providing collateral flow to her
   LAD.  Patient's unstable angina has been medically managed on Nitro
   gtt, Heparin, Clopidogrel, ASA.  Given patient
s active GIB, heparin
   was discontinued on [**1-14**]. Nitro gtt weaned on [**1-16**]. Patient received 2u
   pRBC on admission, with stable Hct. TTE showed EF>55% with LVH with
   normal global and regional systolic function. Aortic valve
   bioprosthesis with thickened leaflets and abnormally-elevated
   gradients. Mild calcific mitral stenosis. Moderate to severe mitral
   regurgitation. Moderate tricuspid regurgitation. Moderate pulmonary
   hypertension. We are observing the ICU prior to her high risk procedure
   - Continue ASA 325mg daily, Atorvastatin 80mg daily, Plavix 75mg daily
   - Continue Metoprolol Tartrate from 50mg mg Q6H
   - Increase Hydralazine 50mg frequency to QID
   - Procedure Monday, vascular surgery aware, double check today
   .
   #.  Possible Lower GI bleed:  HCT at OSH 34 on admission, dropped to 28
   on transfer and 22.7 last night at [**Hospital1 19**].  Patient with BRBPR on Rectal
   Examination, no bloody bowel movement.  Heparin was discontinued last
   night in the setting of GIB.  This is less likely UGIB given no bump in
   BUN.  Patient reported having colonoscopy 5 years ago with no
   significant abnormalities except for some polyps, was told that she did
   not have to come back for 10 years.  Patient received 2u pRBC
   overnight, with hct bump from 22.7 to 27.1.  CT abd/pelvis ruled out RP
   bleed. Hct stable at 33.0 this AM.
   - Daily CBC
   - PO Famotidine
   .
   #. Pump: Patient appears euvolemic on exam with no evidence of fluid
   overload or R sided failure.  Patient was diuresed at OSH.  Echo at OSH
   shows EF 60-65%, mod LVH, mod LAE, mild [**Last Name (un) **], nl functioning prosthetic
   aortic valve, mod/sev MR, mild/mod TR, mild PR.  Patient with III/VI
   SEM at RUSB, with Carotid upstroke delay.
   - no diuresis today, with goal I/O even
   .
   #. Rhythm: NSR
   - continue to monitor on telemetry
   .
   #. HTN:  Patient
s sBP has been in the 130s since increasing
   antihypertensive regimen & discontinuing Nitro gtt.
   - Metoprolol Tartrate from 50 mg Q6H
   - Increase Hydralazine 50mg frequency to QID
   .
   # CKD: stage III-IV.  Creatinine on [**2144-10-9**] was 1.82, prior to that,
   her Creatinine was 1.39 and 1.48 in [**2142**].  Creatinine 1.6 today.  CT
   abd/pelvis showed Multiple well-circumscribed bilateral renal lesions,
   correlation with prior imaging or a renal US is warranted.
   - Continue to monitor
   - Avoid renal toxins
   - Renally dose meds
   - Outpatient renal US
   .
   #. PVD:
   - hold Pentoxifylline 400mg TID for now
   .
   # GERD:
   - Tums or maalox prn
   - PO Famotidine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2145-1-14**] 09:24 PM
   20 Gauge - [**2145-1-14**] 09:25 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Attending
s Note:09.00hrs
   Reviewed overnight Examined Pt events .
   and agree with plan of Rx outlined by Dr.[**Last Name (STitle) **]
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 6658**]
   Spent 35 mins on case
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 6658**]
   on:[**2145-1-17**] 09:39 ------

2145-01-18 07:37:00 Physician Resident Progress Note
Chief Complaint: 83F hx AS, CAD s/p 1v [**Hospital 12969**] transferred from OSH with
   98% LM dz
   24 Hour Events:
   Plan for high-risk PCI today of LM dz with tandem heart
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Vasotec (Oral) (Enalapril Maleate)
   cough;
   Pletal (Oral) (Cilostazol)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-18**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**46**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 59 (59 - 88) bpm
   BP: 143/49(74) {125/45(58) - 163/93(97)} mmHg
   RR: 17 (13 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 70 kg (admission): 70.2 kg
   Height: 67 Inch
             Total In:
                                                                    500 mL
                                                                    511 mL
   PO:
                                                                    500 mL
                                                                    100 mL
   TF:
   IVF:
   411 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                    350 mL
   Urine:
                                                                    900 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -400 mL
                                                                    161 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Loud), (Murmur: Systolic), III/VI to
   carotids
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Absent), (Left DP pulse: Absent)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   259 K/uL
   11.9 g/dL
   93 mg/dL
   1.4 mg/dL
   26 mEq/L
   4.1 mEq/L
   34 mg/dL
   103 mEq/L
   140 mEq/L
   35.7 %
   7.6 K/uL
        [image002.jpg]
                             [**2145-1-14**]  09:54 PM
                             [**2145-1-15**]  05:16 AM
                             [**2145-1-15**]  05:00 PM
                             [**2145-1-16**]  05:03 AM
                             [**2145-1-16**]  09:10 PM
                             [**2145-1-17**]  04:44 AM
                             [**2145-1-18**]  05:25 AM
   WBC
   6.9
   7.3
   7.0
   7.9
   7.6
   Hct
   22.7
   27.1
   30.3
   33.0
   34.6
   37.3
   35.7
   Plt
   [**Telephone/Fax (3) 12958**]42
   259
   Cr
   1.5
   1.6
   1.6
   1.4
   1.4
   TropT
   0.28
   Glucose
   237
   104
   96
   86
   93
   Other labs: PT / PTT / INR:11.9/26.3/1.0, CK / CKMB /
   Troponin-T:24//0.28, Alk Phos / T Bili:/1.1, LDH:178 IU/L, Ca++:8.3
   mg/dL, Mg++:2.7 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   Patient is a 83 yo fm with hx of AS, CAD s/p 1V [**Hospital 8408**] transfered from
   OSH with 98% left main disease.
   .
   #. CAD: Stable on medical managment.  OSH Cath shows showed 98%
   discrete distal left main disease, 90% proximal/mid/distal RCA, patent
   RIMA-distal RCA, 85% mid right external iliac stenosis.  Patient is at
   very high risk for PCI with 98% distal left main disease. The patient
   is a poor substrate for IABP given her peripheral vascular disease.
   Has patent RIMA-RCA that is likely providing collateral flow to her
   LAD.  Patient's unstable angina has been medically managed on Nitro
   gtt, Heparin, Clopidogrel, ASA.  Given patient
s active GIB, heparin
   was discontinued on [**1-14**]. Nitro gtt weaned on [**1-16**]. Patient received 2u
   pRBC on admission, with stable Hct. TTE showed EF>55% with LVH with
   normal global and regional systolic function. Aortic valve
   bioprosthesis with thickened leaflets and abnormally-elevated
   gradients. Mild calcific mitral stenosis. Moderate to severe mitral
   regurgitation. Moderate tricuspid regurgitation. Moderate pulmonary
   hypertension. We are observing the ICU prior to her high risk procedure
   - High risk PCI today with tandem heart - cardiac and vascular surgery
   aware
   - Continue ASA 325mg daily, Atorvastatin 80mg daily, Plavix 75mg daily
   - Continue Metoprolol Tartrate from 50mg mg Q6H
   - Increase Hydralazine 50mg frequency to QID
 will wean as tolerated
   .
   #.  Possible Lower GI bleed:  HCT at OSH 34 on admission, dropped to 28
   on transfer and 22.7 last night at [**Hospital1 19**].  Patient with BRBPR on Rectal
   Examination, no bloody bowel movement.  Heparin was discontinued last
   night in the setting of GIB.  This is less likely UGIB given no bump in
   BUN.  Patient reported having colonoscopy 5 years ago with no
   significant abnormalities except for some polyps, was told that she did
   not have to come back for 10 years.  Patient received 2u pRBC
   yesterday, with hct bump from 22.7 to 27.1.  CT abd/pelvis ruled out RP
   bleed. Hct stable this AM. Will continue to follow.
   - Daily CBC
   - PO Famotidine
   .
   #. Pump: Patient appears euvolemic on exam with no evidence of fluid
   overload or R sided failure.  Patient was diuresed at OSH.  Echo at OSH
   shows EF 60-65%, mod LVH, mod LAE, mild [**Last Name (un) **], nl functioning prosthetic
   aortic valve, mod/sev MR, mild/mod TR, mild PR.  Patient with III/VI
   SEM at RUSB, with Carotid upstroke delay.
   - no diuresis today, with goal I/O even
   .
   #. Rhythm: NSR
   - continue to monitor on telemetry
   .
   #. HTN:  Patient
s sBP has been in the 130s since increasing
   antihypertensive regimen & discontinuing Nitro gtt.
   - Metoprolol Tartrate from 50 mg Q6H
   - Increase Hydralazine 50mg frequency to QID
   .
   # CKD: stage III-IV.  Creatinine on [**2144-10-9**] was 1.82, prior to that,
   her Creatinine was 1.39 and 1.48 in [**2142**].  Creatinine 1.6 today.  CT
   abd/pelvis showed Multiple well-circumscribed bilateral renal lesions,
   correlation with prior imaging or a renal US is warranted. Currently at
   baseline.
   - Continue to monitor
   - Avoid renal toxins
   - Renally dose meds
   - Outpatient renal US
   .
   #. PVD:
   - hold Pentoxifylline 400mg TID for now
   .
   # GERD:
   - Tums or maalox prn
   - PO Famotidine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2145-1-18**] 07:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU